US06162815
(a) Synthesis of methyl 4-(3-bromo-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyloxy)benzoate
In the manner similar to Example 1(a), by the reaction of 1 g (3.5 mmol) of 3-bromo-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthol with 770 mg (2.94 mmol) of methyl 4-iodobenzoate, 700 mg (58%) of the expected methyl ester of melting point 135-6° C. were obtained.

reactant | 3-bromo-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthol | 3.5 mmol, 1 g | BrC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)O | C14H19BrO
reactant | methyl 4-iodobenzoate | 2.94 mmol, 770 mg | IC1=CC=C(C(=O)OC)C=C1 | C8H7IO2
product | methyl 4-(3-bromo-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyloxy)benzoate | BrC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)OC1=CC=C(C(=O)OC)C=C1 | C22H25BrO3
